* NGSPICE file created from user_analog_project_wrapper.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_JJT9EJ a_n29_n350# a_89_n350# a_n89_n376# a_29_n376#
+ w_n183_n412# a_n147_n350#
X0 a_89_n350# a_29_n376# a_n29_n350# w_n183_n412# sky130_fd_pr__pfet_01v8 ad=1.015e+12p pd=7.58e+06u as=1.015e+12p ps=7.58e+06u w=3.5e+06u l=300000u
X1 a_n29_n350# a_n89_n376# a_n147_n350# w_n183_n412# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=1.015e+12p ps=7.58e+06u w=3.5e+06u l=300000u
.ends

.subckt sky130_fd_pr__pfet_01v8_EKD6RN a_n147_n300# a_n29_n300# a_89_n300# a_n89_n326#
+ w_n183_n362# a_29_n326#
X0 a_89_n300# a_29_n326# a_n29_n300# w_n183_n362# sky130_fd_pr__pfet_01v8 ad=8.7e+11p pd=6.58e+06u as=8.7e+11p ps=6.58e+06u w=3e+06u l=300000u
X1 a_n29_n300# a_n89_n326# a_n147_n300# w_n183_n362# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=8.7e+11p ps=6.58e+06u w=3e+06u l=300000u
.ends

.subckt sky130_fd_pr__pfet_01v8_GRHA7T w_n124_n302# a_30_n240# a_n30_n266# a_n88_n240#
X0 a_30_n240# a_n30_n266# a_n88_n240# w_n124_n302# sky130_fd_pr__pfet_01v8 ad=6.96e+11p pd=5.38e+06u as=6.96e+11p ps=5.38e+06u w=2.4e+06u l=300000u
.ends

.subckt sky130_fd_pr__nfet_01v8_ZU5QBV a_n88_n350# a_30_n350# a_n30_n376# VSUBS
X0 a_30_n350# a_n30_n376# a_n88_n350# VSUBS sky130_fd_pr__nfet_01v8 ad=1.015e+12p pd=7.58e+06u as=1.015e+12p ps=7.58e+06u w=3.5e+06u l=300000u
.ends

.subckt sky130_fd_pr__nfet_01v8_M8KAMF a_30_n300# a_n30_n326# a_n88_n300# VSUBS
X0 a_30_n300# a_n30_n326# a_n88_n300# VSUBS sky130_fd_pr__nfet_01v8 ad=8.7e+11p pd=6.58e+06u as=8.7e+11p ps=6.58e+06u w=3e+06u l=300000u
.ends

.subckt sky130_fd_pr__nfet_01v8_N56T4C a_30_n300# a_n30_n326# a_n88_n300# VSUBS
X0 a_30_n300# a_n30_n326# a_n88_n300# VSUBS sky130_fd_pr__nfet_01v8 ad=8.7e+11p pd=6.58e+06u as=8.7e+11p ps=6.58e+06u w=3e+06u l=300000u
.ends

.subckt sky130_fd_pr__nfet_01v8_7R257D a_30_n180# a_n88_n180# a_n30_n206# VSUBS
X0 a_30_n180# a_n30_n206# a_n88_n180# VSUBS sky130_fd_pr__nfet_01v8 ad=5.22e+11p pd=4.18e+06u as=5.22e+11p ps=4.18e+06u w=1.8e+06u l=300000u
.ends

.subckt VCO In Out gnd VDD
Xsky130_fd_pr__pfet_01v8_JJT9EJ_0 VDD Out a_2222_736# a_2222_736# VDD Out sky130_fd_pr__pfet_01v8_JJT9EJ
Xsky130_fd_pr__pfet_01v8_JJT9EJ_1 VDD a_2222_736# a_330_688# a_330_688# VDD a_2222_736#
+ sky130_fd_pr__pfet_01v8_JJT9EJ
Xsky130_fd_pr__pfet_01v8_EKD6RN_1 m1_50_n32# VDD m1_50_n32# a_94_4# VDD a_94_4# sky130_fd_pr__pfet_01v8_EKD6RN
Xsky130_fd_pr__pfet_01v8_EKD6RN_0 m1_50_n32# m1_404_74# m1_50_n32# a_330_688# VDD
+ a_330_688# sky130_fd_pr__pfet_01v8_EKD6RN
Xsky130_fd_pr__pfet_01v8_GRHA7T_0 VDD a_94_4# a_94_4# VDD sky130_fd_pr__pfet_01v8_GRHA7T
Xsky130_fd_pr__nfet_01v8_ZU5QBV_0 gnd a_2222_736# a_330_688# gnd sky130_fd_pr__nfet_01v8_ZU5QBV
Xsky130_fd_pr__nfet_01v8_ZU5QBV_1 gnd Out a_2222_736# gnd sky130_fd_pr__nfet_01v8_ZU5QBV
Xsky130_fd_pr__nfet_01v8_M8KAMF_0 sky130_fd_pr__nfet_01v8_M8KAMF_0/a_30_n300# In gnd
+ gnd sky130_fd_pr__nfet_01v8_M8KAMF
Xsky130_fd_pr__nfet_01v8_N56T4C_0 m1_404_74# a_330_688# sky130_fd_pr__nfet_01v8_M8KAMF_0/a_30_n300#
+ gnd sky130_fd_pr__nfet_01v8_N56T4C
Xsky130_fd_pr__nfet_01v8_7R257D_0 a_94_4# gnd In gnd sky130_fd_pr__nfet_01v8_7R257D
X0 VDD a_94_4# a_620_58# VDD sky130_fd_pr__pfet_01v8 ad=5.336e+12p pd=4.028e+07u as=2.61e+12p ps=1.974e+07u w=3e+06u l=300000u
X1 a_330_688# a_972_n1002# a_1446_n1002# gnd sky130_fd_pr__nfet_01v8 ad=8.7e+11p pd=6.58e+06u as=8.7e+11p ps=6.58e+06u w=3e+06u l=300000u
X2 a_972_n1002# m1_404_74# a_854_n1002# gnd sky130_fd_pr__nfet_01v8 ad=8.7e+11p pd=6.58e+06u as=8.7e+11p ps=6.58e+06u w=3e+06u l=300000u
X3 a_620_58# a_94_4# VDD VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=3e+06u l=300000u
X4 a_972_n1002# m1_404_74# a_620_58# VDD sky130_fd_pr__pfet_01v8 ad=8.7e+11p pd=6.58e+06u as=0p ps=0u w=3e+06u l=300000u
X5 a_1212_58# a_94_4# VDD VDD sky130_fd_pr__pfet_01v8 ad=2.61e+12p pd=1.974e+07u as=0p ps=0u w=3e+06u l=300000u
X6 a_620_58# m1_404_74# a_972_n1002# VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=3e+06u l=300000u
X7 a_330_688# a_972_n1002# a_1212_58# VDD sky130_fd_pr__pfet_01v8 ad=8.7e+11p pd=6.58e+06u as=0p ps=0u w=3e+06u l=300000u
X8 a_1212_58# a_972_n1002# a_330_688# VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=3e+06u l=300000u
X9 VDD a_94_4# a_1212_58# VDD sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=3e+06u l=300000u
X10 a_1446_n1002# In gnd gnd sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=5.162e+12p ps=3.908e+07u w=3e+06u l=300000u
X11 a_854_n1002# In gnd gnd sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=3e+06u l=300000u
.ends

.subckt user_analog_project_wrapper gpio_analog[2] io_analog[5] gpio_analog[4] gpio_analog[5] gpio_analog[3]
+ gpio_analog[6] gpio_noesd[2] gpio_noesd[3] gpio_noesd[4] gpio_noesd[5] gpio_noesd[6]
+ io_analog[0] io_analog[1] io_analog[2] io_analog[3] io_analog[4] io_clamp_high[0]
+ io_clamp_low[0] io_in[10] io_in[11] io_in[12] io_in[13] io_in[9] io_in_3v3[10] io_in_3v3[11]
+ io_in_3v3[12] io_in_3v3[13] io_in_3v3[9] io_oeb[10] io_oeb[11] io_oeb[12] io_oeb[13]
+ io_oeb[9] io_out[10] io_out[11] io_out[12] io_out[13] io_out[9] vccd1 vdda1 vssa1
+ io_in[16] io_in[17] gpio_analog[9] gpio_noesd[10] io_analog[6] io_analog[7] io_in_3v3[14]
+ io_in_3v3[15] io_in_3v3[16] io_in_3v3[17] io_analog[8] io_analog[9] gpio_noesd[7]
+ io_oeb[14] io_oeb[15] io_oeb[16] io_oeb[17] gpio_noesd[8] io_clamp_high[1] io_clamp_high[2]
+ gpio_noesd[9] io_clamp_low[1] io_out[14] io_out[15] io_out[16] io_out[17] io_clamp_low[2]
+ gpio_analog[10] io_analog[10] vccd2 gpio_analog[7] gpio_analog[8] io_in[14] io_in[15]
+ vssa2 io_in_3v3[24] io_in_3v3[25] io_in_3v3[26] gpio_analog[16] gpio_analog[17]
+ gpio_analog[11] gpio_analog[12] gpio_noesd[11] io_in[18] io_in[19] io_in[20] io_in[21]
+ io_oeb[18] io_oeb[19] io_oeb[20] io_oeb[21] io_oeb[22] io_oeb[23] io_oeb[24] io_oeb[25]
+ io_oeb[26] io_in[22] io_in[23] io_in[24] io_in[25] io_in[26] gpio_noesd[12] gpio_noesd[13]
+ gpio_noesd[14] gpio_noesd[15] io_out[18] io_out[19] io_out[20] io_out[21] io_out[22]
+ io_out[23] io_out[24] io_out[25] io_out[26] gpio_noesd[16] gpio_noesd[17] gpio_analog[13]
+ gpio_analog[14] gpio_analog[15] io_in_3v3[18] io_in_3v3[19] vdda2 io_in_3v3[20]
+ io_in_3v3[21] io_in_3v3[22] io_in_3v3[23] vssd2 io_in_3v3[6] io_in_3v3[7] io_in_3v3[8]
+ io_in[1] io_oeb[0] gpio_noesd[0] io_in[2] io_in[3] io_in[4] io_in[5] io_out[1] io_in[6]
+ io_in_3v3[1] io_in[7] io_in[8] gpio_analog[0] io_oeb[1] io_in_3v3[0] io_out[2] io_out[3]
+ io_out[4] io_out[5] io_out[6] io_out[7] io_out[8] gpio_analog[1] gpio_noesd[1] io_in[0]
+ io_in_3v3[2] io_in_3v3[3] io_in_3v3[4] io_oeb[2] io_oeb[3] io_oeb[4] io_oeb[5] io_oeb[6]
+ io_oeb[7] io_oeb[8] vssd1 io_in_3v3[5] io_out[0] wb_clk_i wb_rst_i wbs_ack_o wbs_adr_i[0]
+ wbs_adr_i[10] wbs_adr_i[11] wbs_adr_i[12] wbs_adr_i[13] wbs_adr_i[14] wbs_adr_i[15]
+ wbs_adr_i[16] wbs_adr_i[17] wbs_adr_i[1] wbs_adr_i[2] wbs_adr_i[3] wbs_adr_i[4]
+ wbs_adr_i[5] wbs_adr_i[6] wbs_adr_i[7] wbs_adr_i[8] wbs_adr_i[9] wbs_cyc_i wbs_dat_i[0]
+ wbs_dat_i[10] wbs_dat_i[11] wbs_dat_i[12] wbs_dat_i[13] wbs_dat_i[14] wbs_dat_i[15]
+ wbs_dat_i[16] wbs_dat_i[1] wbs_dat_i[2] wbs_dat_i[3] wbs_dat_i[4] wbs_dat_i[5] wbs_dat_i[6]
+ wbs_dat_i[7] wbs_dat_i[8] wbs_dat_i[9] wbs_dat_o[0] wbs_dat_o[10] wbs_dat_o[11]
+ wbs_dat_o[12] wbs_dat_o[13] wbs_dat_o[14] wbs_dat_o[15] wbs_dat_o[16] wbs_dat_o[1]
+ wbs_dat_o[2] wbs_dat_o[3] wbs_dat_o[4] wbs_dat_o[5] wbs_dat_o[6] wbs_dat_o[7] wbs_dat_o[8]
+ wbs_dat_o[9] wbs_sel_i[0] wbs_sel_i[1] wbs_sel_i[2] wbs_sel_i[3] wbs_stb_i wbs_we_i
+ wbs_dat_i[17] wbs_dat_i[18] wbs_dat_i[19] wbs_adr_i[18] wbs_dat_i[20] wbs_dat_i[21]
+ wbs_dat_i[22] wbs_dat_i[23] wbs_dat_i[24] wbs_dat_i[25] wbs_dat_i[26] wbs_dat_i[27]
+ wbs_dat_i[28] wbs_dat_i[29] wbs_adr_i[19] wbs_dat_i[30] wbs_dat_i[31] la_oenb[0]
+ wbs_adr_i[20] wbs_adr_i[21] wbs_adr_i[22] wbs_adr_i[23] wbs_adr_i[24] wbs_adr_i[25]
+ wbs_adr_i[26] wbs_adr_i[27] wbs_adr_i[28] wbs_adr_i[29] la_oenb[1] wbs_adr_i[30]
+ wbs_adr_i[31] la_oenb[2] wbs_dat_o[17] wbs_dat_o[18] wbs_dat_o[19] la_oenb[3] wbs_dat_o[20]
+ wbs_dat_o[21] wbs_dat_o[22] wbs_dat_o[23] wbs_dat_o[24] wbs_dat_o[25] wbs_dat_o[26]
+ wbs_dat_o[27] wbs_dat_o[28] wbs_dat_o[29] la_oenb[4] wbs_dat_o[30] wbs_dat_o[31]
+ la_oenb[5] la_data_in[0] la_data_in[1] la_data_in[2] la_data_in[3] la_data_in[4]
+ la_data_in[5] la_data_out[0] la_data_out[1] la_data_out[2] la_data_out[3] la_data_out[4]
+ la_data_out[5] la_data_in[23] la_data_in[24] la_data_in[25] la_oenb[6] la_oenb[7]
+ la_oenb[8] la_oenb[9] la_data_in[26] la_data_in[11] la_data_in[12] la_data_in[13]
+ la_data_in[14] la_data_in[6] la_data_in[7] la_data_in[8] la_data_in[9] la_data_in[15]
+ la_data_out[10] la_data_out[11] la_data_out[12] la_data_out[13] la_data_out[14]
+ la_data_out[15] la_data_out[16] la_data_out[17] la_data_out[18] la_data_out[19]
+ la_data_in[16] la_data_out[20] la_data_out[21] la_data_out[22] la_data_out[23] la_data_out[24]
+ la_data_out[25] la_data_in[17] la_data_in[18] la_data_in[19] la_data_in[10] la_data_out[6]
+ la_data_out[7] la_data_out[8] la_data_out[9] la_data_in[20] la_oenb[10] la_oenb[11]
+ la_oenb[12] la_oenb[13] la_oenb[14] la_oenb[15] la_oenb[16] la_oenb[17] la_oenb[18]
+ la_oenb[19] la_data_in[21] la_oenb[20] la_oenb[21] la_oenb[22] la_oenb[23] la_oenb[24]
+ la_oenb[25] la_data_in[22] la_data_in[39] la_oenb[45] la_data_in[40] la_data_out[26]
+ la_data_out[27] la_data_out[28] la_data_out[29] la_data_in[41] la_data_out[30] la_data_out[31]
+ la_data_out[32] la_data_out[33] la_data_out[34] la_data_out[35] la_data_out[36]
+ la_data_out[37] la_data_out[38] la_data_out[39] la_data_in[42] la_data_out[40] la_data_out[41]
+ la_data_out[42] la_data_out[43] la_data_out[44] la_data_out[45] la_data_out[46]
+ la_data_in[43] la_data_in[44] la_data_in[45] la_data_in[46] la_oenb[46] la_oenb[38]
+ la_oenb[39] la_oenb[37] la_oenb[40] la_oenb[41] la_oenb[42] la_oenb[43] la_data_in[27]
+ la_data_in[28] la_data_in[29] la_oenb[44] la_data_in[30] la_data_in[31] la_data_in[32]
+ la_data_in[33] la_data_in[34] la_data_in[35] la_data_in[36] la_data_in[37] la_oenb[26]
+ la_oenb[27] la_oenb[28] la_oenb[29] la_data_in[38] la_oenb[30] la_oenb[31] la_oenb[32]
+ la_oenb[33] la_oenb[34] la_oenb[35] la_oenb[36] la_oenb[47] la_oenb[48] la_oenb[49]
+ la_oenb[50] la_oenb[51] la_oenb[52] la_oenb[53] la_oenb[54] la_oenb[55] la_oenb[56]
+ la_oenb[57] la_oenb[58] la_oenb[59] la_oenb[60] la_oenb[61] la_oenb[62] la_oenb[63]
+ la_oenb[64] la_oenb[65] la_oenb[66] la_data_in[47] la_data_in[48] la_data_in[49]
+ la_data_in[50] la_data_in[51] la_data_in[52] la_data_in[53] la_data_in[54] la_data_in[55]
+ la_data_in[56] la_data_in[57] la_data_in[58] la_data_in[59] la_data_in[60] la_data_in[61]
+ la_data_in[62] la_data_in[63] la_data_out[47] la_data_out[48] la_data_out[49] la_data_in[64]
+ la_data_out[50] la_data_out[51] la_data_out[52] la_data_out[53] la_data_out[54]
+ la_data_out[55] la_data_out[56] la_data_out[57] la_data_out[58] la_data_out[59]
+ la_data_in[65] la_data_out[60] la_data_out[61] la_data_out[62] la_data_out[63] la_data_out[64]
+ la_data_out[65] la_data_out[66] la_data_out[67] la_data_in[66] la_data_in[67] la_data_in[72]
+ la_data_in[73] la_data_in[74] la_data_in[75] la_data_in[76] la_data_in[77] la_data_in[78]
+ la_data_in[79] la_data_in[80] la_data_in[81] la_data_in[82] la_data_in[83] la_data_in[84]
+ la_data_in[85] la_data_in[86] la_data_in[87] la_data_in[69] la_oenb[67] la_oenb[68]
+ la_oenb[69] la_oenb[70] la_oenb[71] la_oenb[72] la_oenb[73] la_oenb[74] la_oenb[75]
+ la_oenb[76] la_oenb[77] la_oenb[78] la_oenb[79] la_oenb[80] la_oenb[81] la_oenb[82]
+ la_oenb[83] la_oenb[84] la_oenb[85] la_oenb[86] la_oenb[87] la_data_out[68] la_data_out[69]
+ la_data_in[70] la_data_out[70] la_data_out[71] la_data_out[72] la_data_out[73] la_data_out[74]
+ la_data_out[75] la_data_out[76] la_data_out[77] la_data_out[78] la_data_out[79]
+ la_data_in[71] la_data_out[80] la_data_out[81] la_data_out[82] la_data_out[83] la_data_out[84]
+ la_data_out[85] la_data_out[86] la_data_out[87] la_data_in[68] la_oenb[88] la_oenb[89]
+ la_oenb[90] la_oenb[91] la_oenb[92] la_oenb[93] la_oenb[94] la_oenb[95] la_oenb[96]
+ la_oenb[97] la_oenb[98] la_oenb[99] la_data_in[101] la_data_in[102] la_data_in[103]
+ la_data_in[104] la_data_in[105] la_data_in[106] la_data_in[107] la_data_in[108]
+ la_data_in[100] la_data_in[90] la_data_in[91] la_data_in[92] la_data_in[93] la_data_in[94]
+ la_data_in[95] la_data_in[96] la_data_in[97] la_data_in[98] la_data_in[99] la_data_out[100]
+ la_data_out[101] la_data_out[102] la_data_out[103] la_data_out[104] la_data_out[105]
+ la_data_out[93] la_data_out[106] la_data_out[94] la_data_out[107] la_data_out[95]
+ la_data_out[96] la_data_out[108] la_data_out[97] la_data_out[98] la_data_out[99]
+ la_data_out[92] la_oenb[100] la_oenb[101] la_oenb[102] la_oenb[103] la_oenb[104]
+ la_oenb[105] la_oenb[106] la_oenb[107] la_data_in[88] la_data_in[89] la_data_out[88]
+ la_data_out[89] la_data_out[90] la_data_out[91] la_data_in[119] la_data_out[120]
+ la_data_out[121] la_data_out[122] la_data_in[116] la_data_in[117] la_data_out[123]
+ la_data_in[112] la_data_out[124] la_data_out[125] la_data_out[126] la_data_out[127]
+ la_data_in[118] la_oenb[109] la_data_in[120] la_oenb[110] la_data_in[121] la_oenb[111]
+ la_oenb[112] la_oenb[113] la_oenb[114] la_oenb[115] la_oenb[116] la_oenb[117] la_oenb[118]
+ la_oenb[119] la_data_in[122] la_data_in[123] la_oenb[120] la_oenb[121] la_oenb[122]
+ la_oenb[123] la_oenb[124] la_oenb[125] la_oenb[126] la_oenb[127] la_data_in[124]
+ la_data_in[125] la_data_in[126] la_data_in[127] la_data_out[110] user_clock2 user_irq[0]
+ la_data_in[113] user_irq[1] la_data_in[114] user_irq[2] la_data_out[111] la_data_out[112]
+ la_data_out[109] la_data_in[109] la_data_out[113] la_data_in[110] la_data_out[114]
+ la_oenb[108] la_data_out[115] la_data_out[116] la_data_in[111] la_data_out[117]
+ la_data_in[115] la_data_out[118] la_data_out[119]
XVCO_0 io_analog[5] io_analog[3] vssa2 vccd2 VCO
.ends

